US07326791B2
(b) 4-Hydrazino-3-trifluoromethylbenzoic acid
7.5 g (36 mmol) of 4-fluoro-3-trifluoromethylbenzoic acid is dissolved in 12 mL dimethylsulfoxide and, after the addition of 15 mL (0.24 mol) of hydrazine hydrate (80%), stirred for 5 hours at 100° C. After cooling, it is combined with ice and acidified with glacial acetic acid. The precipitated product is suction filtered and dried. Yield: 5.3 g (66%).

reactant | 4-fluoro-3-trifluoromethylbenzoic acid | 36 mmol, 7.5 g | FC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | hydrazine hydrate | 0.24 mol, 15 mL | O.NN
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylsulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 4-Hydrazino-3-trifluoromethylbenzoic acid | N(N)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H7F3N2O2
